US07199239B2
(4-{[(2-Methoxyethyl)(4′-methoxy-2-methyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid
Prepared from 4-methoxyphenylboronic acid and ethyl (4-{[(3-bromo-2-methylphenyl)(2-methoxyethyl)amino]methyl}-2-methylphenoxy)acetate using the procedure described for Example 25 (Method A).

reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | ethyl (4-{[(3-bromo-2-methylphenyl)(2-methoxyethyl)amino]methyl}-2-methylphenoxy)acetate | BrC=1C(=C(C=CC1)N(CCOC)CC1=CC(=C(OCC(=O)OCC)C=C1)C)C | C22H28BrNO4
product | (4-{[(2-Methoxyethyl)(4′-methoxy-2-methyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid | COCCN(C=1C(=C(C=CC1)C1=CC=C(C=C1)OC)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C27H31NO5
